US08080566B1
A 1000-mL 3-necked round-bottomed flask was charged with a solution of 1-benzyl-4-iodo-1H-pyrazole (32 g, 112.68 mmol, 1.00 equiv) in N,N-dimethylformamide (500 mL), 4,4,5,5-tetramethyl-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3,2-dioxaborolane (31.5 g, 124.02 mmol, 1.10 equiv), Pd(dppf)Cl2.CHCl3 (2.8 g, 3.33 mmol, 0.03 equiv), AcOK (33.1 g, 337.76 mmol, 3.00 equiv). The resulting solution was heated to 85° C. in an oil bath overnight. The resulting mixture was diluted with water (200 mL). The solids were filtered out. The mixture was then extracted with ethyl acetate (3×200 mL). Combined organic layers were washed with brine (3×200 mL), dried over anhydrous sodium sulfate, filtered off and concentrated on a rotary evaporator. The residue was purified by a silica gel column chromatography eluted with ethyl acetate/petroleum ether (1:7) affording 1-benzyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole as white solid (20 g, 62%).

reactant | 1-benzyl-4-iodo-1H-pyrazole | 112.68 mmol, 32 g, 1.00 equiv | C(C1=CC=CC=C1)N1N=CC(=C1)I | C10H9IN2
reactant | 4,4,5,5-tetramethyl-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3,2-dioxaborolane | 124.02 mmol, 31.5 g, 1.10 equiv | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | CHCl3 | 3.33 mmol, 2.8 g, 0.03 equiv | C(Cl)(Cl)Cl | CHCl3
reactant | AcOK | 337.76 mmol, 33.1 g, 3.00 equiv | C(=O)(C)O[K]
solvent | N,N-dimethylformamide | 500 mL | CN(C=O)C | C3H7NO
solvent | water | 200 mL | O | H2O
catalyst | Pd(dppf)Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 1-benzyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 20 g, 62% | C(C1=CC=CC=C1)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C16H21BN2O2
